US05650428
A mixture of (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-ethoxycarbonylphenyl)-3-(tetrahydropyran-2-yloxy)propanamide (200 mg), ethanol (5 ml), and 2N NaOH (2 ml) was stirred at room temperature overnight under argon. The reaction mixture was concentrated under reduced pressure. It was repeated 3 times in order to remove ethanol completely that a small amount of purified water was added to the residue, and the whole was concentrated under reduced pressure. The residue was acidified with 1N HCl, and then extracted with ethyl acetate. The combined ethyl acetate layers were washed with saturated saline solution and dried over Na2SO4. The solvent was evaporated under reduced pressure to obtain (S)-N-(4-carboxyphenyl)-2-(4-chlorobenzenesulfonylamino)-3-(tetrahydropyran-2-yloxy)propanamide (147 mg).

reactant | (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-ethoxycarbonylphenyl)-3-(tetrahydropyran-2-yloxy)propanamide | 200 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)NC1=CC=C(C=C1)C(=O)OCC)COC1OCCCC1 | C23H27ClN2O7S
reactant | NaOH | 2N, 2 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (S)-N-(4-carboxyphenyl)-2-(4-chlorobenzenesulfonylamino)-3-(tetrahydropyran-2-yloxy)propanamide | 147 mg | C(=O)(O)C1=CC=C(C=C1)NC([C@H](COC1OCCCC1)NS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C21H23ClN2O7S
